US09056112B2
(R)-piperidine-3-amine dibenzoyl-D-tartrate (9.0 gm) and isopropanol (50 mL) were charged in a 500 mL round bottomed flask equipped with a mechanical stirrer and water (4.5 mL) was added. The mixture was stirred for 30 minutes at 26° C. and IPA.HCl (18%, 12 mL) was added and the resulted mixture was heated to 62° C. and maintained for 2 hours at 62° C. Reaction mixture was allowed to get 26° C. and stirred for 20 hours at 26° C. The precipitation formed was filtered and washed with 9 mL of IPA. The solid was dried under vacuum at 70° C. to get 2.1 gm of pure (R)-piperidine-3-amine dihydrochloride. Chiral Purity: 99.87%, (S)-isomer content: 0.13%.

reactant | (R)-piperidine-3-amine dibenzoyl-D-tartrate | 9.0 gm | C(C1=CC=CC=C1)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=CC=C1)=O)(O)C(=O)O.N1C[C@@H](CCC1)N
reactant | water | 4.5 mL | O | H2O
reactant | HCl | 12 mL | Cl | ClH
solvent | IPA | CC(C)O | C3H8O
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | (R)-piperidine-3-amine dihydrochloride | 2.1 gm | Cl.Cl.N1C[C@@H](CCC1)N | InChI=1S/C5H12N2.2ClH/c6-5-2-1-3-7-4-5;;/h5,7H,1-4,6H2;2*1H/t5-;;/m1../s1
